US03979397
20.0 g. of pyridine hydrochloride are added to 6.0 g. of 1-cyano-3-imino-8,9-dimethoxy-3,4,5,6 -tetrahydro-1,3-thiazolo[4,3-a]isoquinoline hydrochloride, and the mixture is kept for 2 hours in an oil bath of 210°-220°C. The mixture is cooled and a mixture of 6 ml. of concentrated hydrochloric acid and 14 ml. of water is added. 5.2 g. of crystalline 1-cyano-3-imino-8,9-dihydroxy-3,4,5,6-tetrahydro-1,3-thiazolo[4,3-a]isoquinoline hydrochloride dihydrate are obtained; m.p.: graduallly decomposes from 280°C (after recrystallization from hot water).

reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | 1-cyano-3-imino-8,9-dimethoxy-3,4,5,6 -tetrahydro-1,3-thiazolo[4,3-a]isoquinoline hydrochloride | Cl.C(#N)C=1SC(N2C1C1=CC(=C(C=C1CC2)OC)OC)=N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-cyano-3-imino-8,9-dihydroxy-3,4,5,6-tetrahydro-1,3-thiazolo[4,3-a]isoquinoline hydrochloride dihydrate | O.O.Cl.C(#N)C=1SC(N2C1C1=CC(=C(C=C1CC2)O)O)=N | InChI=1S/C12H9N3O2S.ClH.2H2O/c13-5-10-11-7-4-9(17)8(16)3-6(7)1-2-15(11)12(14)18-10;;;/h3-4,14,16-17H,1-2H2;1H;2*1H2
